US07300951B2
To a gray slurry of LAH (100 mg, 2.65 mmol) in THF (3 mL) at −10° C. was added (4R)-3-[(2S, 3S)-2-azido-3-ethyl-5,5,5-trifluoropentanoyl]-4-benzyl-1,3-oxazolidin-2-one (300 mg, 0.78 mmol) as a solution in THF (2 mL) dropwise over 5 min. The resulting slurry was allowed to warm to 25° C. for 19 h. The reaction was quenched by sequential addition of H2O (0.3 mL), 1N NaOH (0.9 mL) and H2O (0.3 mL) at 0° C. The precipitate that formed after 5 h was filtered off The mother liquor was dried over MgSO4, filtered and concentrated to obtain (2S, 3S)-2-amino-3-ethyl-5,5,5-trifluoropentan-1-ol as a light yellow oil (145 mg, 98%). Mass Spectrum (−ESI): 184 (M−H)−.

reactant | LAH | 2.65 mmol, 100 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (4R)-3-[(2S, 3S)-2-azido-3-ethyl-5,5,5-trifluoropentanoyl]-4-benzyl-1,3-oxazolidin-2-one | 0.78 mmol, 300 mg | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)[C@H](CC(F)(F)F)CC | C17H19F3N4O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (2S, 3S)-2-amino-3-ethyl-5,5,5-trifluoropentan-1-ol | 145 mg, 98% | N[C@H](CO)[C@H](CC(F)(F)F)CC | C7H14F3NO
